US04002585
The same procedure as in Example 2 was repeated except that 180 g. of gum rosin, 120 g. of maleic anhydride-modified C5 petroleum resin which was prepared by reacting 100 parts of a petroleum resin (commercially available under the trademark "Quintone A-100" made by Nippon Zeon Co., Ltd.) with 3 parts of maleic anhydride, 200 g. of resol-type p-octylphenol-formaldehyde pre-condensate (non-volatile material content: 60%) and 21 g. of pentaerythritol, to give 405 g. of binder resin having an acid value of 17, softening point of 170° C., 33% linseed oil viscosity of Z3 and tolerance of not less than 15.

reactant | rosin | C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C15H20O6
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | p-octylphenol formaldehyde | C(CCCCCCC)C1=CC=C(C=C1)O.C=O
product | pentaerythritol | OCC(CO)(CO)CO | C5H12O4
